US04925838
To a solution of sodium borohydride (0.60 g) in tetrahydrofuran (25 ml) was added dropwise boron trifluoride ether complex (5.8 ml) under ice-cooling and the mixture was stirred at the same temperature for 15 minutes. To the mixture was added a solution of (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine (2.3 g) in tetrahydrofuran (15 ml) and the mixture was stirred at the same temperature for 5 hours. To the reaction mixture was added dropwise methanol (15 ml) under ice-cooling. The mixture was filtered off and the filtrate was evaporated in vacuo. The resulting residue was dissolved in a mixture of methanol (50 ml) and conc. hydrochloric acid (2 ml) and the solution was stirred at ambient temperature overnight The reaction mixture was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (50 ml) and the solution was washed with saturated aqueous sodium hydrogen carbonate and aqueous sodium chloride successively, dried over anhydrous magnesium sulfate and evaporated in vacuo. The resulting residue was chromatographed on silica gel (100 g) eluting with a mixture of chloroform and methanol (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine (1.89 g).

reactant | sodium borohydride | 0.60 g | [BH4-].[Na+]
reactant | (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)carbonylpyrrolidine | 2.3 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C)C(=O)N1C(NCC1)=O | C10H17N3O5S
reactant | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-4-methanesulfonyloxy-1-methyl-2-(2-oxoimidazolidin-1-yl)methylpyrrolidine | 1.89 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C)CN1C(NCC1)=O | C10H19N3O4S
